US05336687
Step 1: Preparation of E, Z-methyl 4,4-diethoxy-3-(4-cyclopentylphenoxy)-2-butenoate
To a solution of 2.42 g (15 mmol) of 4-cyclopentylphenol in 50 mL of THF was added 1.12 g (20 mmol) of powdered KOH and 5.28 g (20 mmol) of 18-crown-6. The solution was heated to 50° C. for 15 minutes, whereupon 3.73 g (20 mmol) of methyl 4,4-diethoxy-2-butynoate was added. The mixture was stirred for 30 minutes, then allowed to cool to room temperature. The solution was then poured into water, and extracted 3 times with 40 mL of ethyl acetate. The organic layers were combined, dried (MgSO4) and concentrated. The crude oil was subjected to column chromatography on SiO2. Elution with 20% ethyl acetate-hexane yielded 2.01 g (58%) of an oil, used in the next step without further purification.

reactant | 4-cyclopentylphenol | 15 mmol, 2.42 g | C1(CCCC1)C1=CC=C(C=C1)O | C11H14O
reactant | KOH | 20 mmol, 1.12 g | [OH-].[K+]
reactant | 18-crown-6 | 20 mmol, 5.28 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | methyl 4,4-diethoxy-2-butynoate | 20 mmol, 3.73 g | C(C)OC(C#CC(=O)OC)OCC | C9H14O4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Z-methyl 4,4-diethoxy-3-(4-cyclopentylphenoxy)-2-butenoate | 2.01 g, 58% | C(C)OC(/C(=C/C(=O)OC)/OC1=CC=C(C=C1)C1CCCC1)OCC | C20H28O5
